US07417028B2
2. (2S)2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethyl-4-methoxyphenyl)pyridine-3-yl)propanoic acid hydrochloride:
A solution of 401 mg (0.69 mmol) of (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethyl-4-methoxyphenyl)pyridine-3-yl)propanoate in TFA (2.0 mL), protected from the atmosphere by a calcium chloride-filled drying tube was stirred at room temperature for two hours. The reaction mixture was concentrated in vacuo at less than 30° C. and the resulting orange oil was dissolved in ether to which a solution of 2 mL of 1 M HCl/ether was added. The resulting white solid was filtered and washed with ether to give the desired product as a white powder, 336 mg, 84% yield.

reactant | (2S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethyl-4-methoxyphenyl)pyridine-3-yl)propanoate | 0.69 mmol, 401 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)C1=C(C=C(C=C1)OC)CC | C36H38N2O5
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S)2-(((9H-Fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethyl-4-methoxyphenyl)pyridine-3-yl)propanoic acid hydrochloride | 84% yield | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC=1C=NC(=CC1)C1=C(C=C(C=C1)OC)CC | InChI=1S/C32H30N2O5.ClH/c1-3-21-17-22(38-2)13-14-23(21)29-15-12-20(18-33-29)16-30(31(35)36)34-32(37)39-19-28-26-10-6-4-8-24(26)25-9-5-7-11-27(25)28;/h4-15,17-18,28,30H,3,16,19H2,1-2H3,(H,34,37)(H,35,36);1H/t30-;/m0./s1
